US05446045
5-Amino-3-(2,3-dihydroxypropyl)thiazolo[4,5-d]-pyrimidine-2,7(3H,6H)-dione
A mixture of 5-amino-3-(2,2-dimethyl-1,3-dioxolan-4-ylmethyl)thiazolo[4,5-d]pyrimidine-2,7(3H,6H)-dione(200 mg, 0.67 mmol) and a solution of hydrogen chloride in MeOH (10%, 20 mL) was protected from moisture and stirred at ambient temperature for 45 min. The solution was evaporated and the residue was stirred with H2O (20 mL). The mixture was immediately made basic (pH=9) by the addition of cone. NH4OH and then acidified (pH=6) withAcOH. The mixture was allowed to stand for 2 h and then the solid was collected by filtration, washed with H2O (50 mL) and dried in vacuumat 95° C. for 16 h.; 100 mg (0.387 mmol, 57%), mp 248°-254° C. Ir (KBr): ν 3360 broad (OH, NH, NH2), and 1600 broad (C=O, C=C, C=N) cm-1. Uv, λ max (nm), (ε×10-3): pH 1, 302 (10.4), 250 (9.59), 222 (29.3); MeOH, 302 (9.16), 250 (8.71), 222 (26.9); pH 11, 292 (7.62), 250 (7.67), 224 1H nmr (DMSO-d6): δ3.68-3.73 (m, 2 H, CH2), 3.80-3.92 (m, 3 H, CH2 and OH), 4.63 (t, 1 H, CH), 4.87 (d, 1 H, OH), 6.90 (br s, 2 H, NH2) and (br s, 1 H, NH). Anal. Calc'dfor C8H10N4O4S (258.26): C, 37.21; H, 3.90; N, 21.69. Found: C, 36.81; H, 4.02; N, 21.26.

reactant | 5-amino-3-(2,2-dimethyl-1,3-dioxolan-4-ylmethyl)thiazolo[4,5-d]pyrimidine-2,7(3H,6H)-dione | 0.67 mmol, 200 mg | NC=1NC(C2=C(N1)N(C(S2)=O)CC2OC(OC2)(C)C)=O | C11H14N4O4S
reactant | hydrogen chloride | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 5-Amino-3-(2,3-dihydroxypropyl)thiazolo[4,5-d]-pyrimidine-2,7(3H,6H)-dione | NC=1NC(C2=C(N1)N(C(S2)=O)CC(CO)O)=O | C8H10N4O4S
